### PR TITLE
Enhance proportionality

### PR DESCRIPTION
**Pull request by wjbs**
Add notions of semantic equality and of proportionality up to a designated constant, along with tactic support for both. Also prove soundness of proportionality / reconstruction of constants, leading ultimately also the the decidability of proportionality (though this is highly inefficient, and in fact ineffective due to an opaque definition in QuantumLib). 

Note: This PR is incomplete. It needs further description and several main theorems are `Admitted`.

### CODE REVIEW

File: src/DiagramRules/Bialgebra.v [hunk 1]
```diff
@@ -56,131 +56,38 @@ Proof.
...
-    rewrite <- X_add_r.
-    rewrite 2 Rplus_0_r.
-    easy.
-  }
-  rewrite compose_assoc.
-  rewrite Hr.
-  easy.
-Unshelve.
-all: lia.
+  split; [|apply nonzero_div_nonzero; nonzero].
```
Comment (adrianleh) [inline src/DiagramRules/Bialgebra.v:72]: This should be a graphical proof

File: src/DiagramRules/CompletenessComp.v [hunk 2]
```diff
@@ -86,8 +87,9 @@ Proof.
 	replace (σ1 .* ∣0⟩⟨0∣ .+ σ1 .* ∣0⟩⟨1∣ .+ (σ1 .* ∣1⟩⟨0∣ .+ σ1 .* ∣1⟩⟨1∣) .+ (σ2 .* ∣0⟩⟨0∣ .+ - σ2 .* ∣0⟩⟨1∣ .+ (- σ2 .* ∣1⟩⟨0∣ .+ σ2 .* ∣1⟩⟨1∣))) with ((σ1 + σ2) .* ∣0⟩⟨0∣ .+ (σ1 - σ2) .* ∣0⟩⟨1∣ .+ (σ1 - σ2) .* ∣1⟩⟨0∣ .+ (σ1 + σ2) .* ∣1⟩⟨1∣) by lma.
 	replace (σ1 + σ2) with (Cexp α / (√2)%R) by (subst; C_field_simplify; [lca | C_field]).
 	replace (σ1 - σ2) with (1 / (√2)%R) by (subst; C_field_simplify; [lca | C_field]).
-	lma.
-Qed.
+	Admitted. (* I believe this is failing due to a versioning issue locally *)
```
Comment (adrianleh) [inline src/DiagramRules/CompletenessComp.v:90]: Flagging

File: src/DiagramRules/CompletenessComp.v [hunk 3]
```diff
@@ -41,8 +41,9 @@ Proof.
 	replace (σ1 .* ∣0⟩⟨0∣ .+ σ1 .* ∣0⟩⟨1∣ .+ (σ1 .* ∣1⟩⟨0∣ .+ σ1 .* ∣1⟩⟨1∣) .+ (σ2 .* ∣0⟩⟨0∣ .+ - σ2 .* ∣0⟩⟨1∣ .+ (- σ2 .* ∣1⟩⟨0∣ .+ σ2 .* ∣1⟩⟨1∣))) with ((σ1 + σ2) .* ∣0⟩⟨0∣ .+ (σ1 - σ2) .* ∣0⟩⟨1∣ .+ (σ1 - σ2) .* ∣1⟩⟨0∣ .+ (σ1 + σ2) .* ∣1⟩⟨1∣) by lma.
 	replace (σ1 + σ2) with (1 / (√2)%R) by (subst; C_field_simplify; [lca | C_field]).
 	replace (σ1 - σ2) with ((Cexp α) / (√2)%R) by (subst; C_field_simplify; [lca | C_field]).
-	lma.
-Qed.
+	Admitted. (* I believe this is failing due to a versioning issue locally *)
```
Comment (adrianleh) [inline src/DiagramRules/CompletenessComp.v:44]: Flagging

File: src/Gates/GateRules.v [hunk 4]
```diff
@@ -175,16 +176,16 @@ Unshelve.
 all: lia.
 Qed.
 
-Lemma cnot_inv_is_swapped_cnot : _CNOT_inv_ ∝ ⨉ ⟷ _CNOT_ ⟷ ⨉.
+Lemma cnot_inv_is_swapped_cnot : _CNOT_inv_ ∝= ⨉ ⟷ _CNOT_ ⟷ ⨉.
```
Comment (adrianleh) [inline src/Gates/GateRules.v:179]: I know you didn't create these but we should implement these before submission

File: src/Ingest/Ingest.v [hunk 5]
```diff
@@ -351,6 +351,7 @@ Proof.
         repeat rewrite kron_1_r; try auto with wf_db.
       * replace (S n - n - 1)%nat with 0%nat by lia.
         apply Mscale_simplify; [ | easy ].
+        fold (n_wire (S n)).
```
Comment (adrianleh) [inline src/Ingest/Ingest.v:354]: Why do we need these additions?

File: src/Gates/GateRules.v (hunk 4 above)
Comment (wjbs) [reply src/Gates/GateRules.v:179]: It appears they're proved in the permutation branch :-) Do we want to try to merge that? I've only glanced, but looks like the proof there uses a nontrivial amount of that machinery.

**Comment by adrianleh** [comment]
Also please run static validation and fix issues

File: src/Ingest/Ingest.v (hunk 5 above)
Comment (wjbs) [reply src/Ingest/Ingest.v:354]: I believe it's because `n_wire` is changed from a notation to a definition. That can be reverted; the motivation was that this would give more control over simplification (and, for instance, make `bundle_wires` much simpler).

File: src/DiagramRules/Bialgebra.v (hunk 1 above)
Comment (wjbs) [reply src/DiagramRules/Bialgebra.v:72]: I'll revert.

File: src/Gates/GateRules.v (hunk 4 above)
Comment (adrianleh) [reply src/Gates/GateRules.v:179]: can w get both branches in before the deadline?

File: src/Ingest/Ingest.v (hunk 5 above)
Comment (adrianleh) [reply src/Ingest/Ingest.v:354]: not sure this belongs in this pr but worth discuss nevertheless, so leave it in for now

File: src/Gates/GateRules.v (hunk 4 above)
Comment (wjbs) [reply src/Gates/GateRules.v:179]: It would require the QLib permutations PR to go through, but other than that I think I should be able to update permutations branch to use semantic equality.

**Comment by wjbs** [comment]
CI is currently failing because the Qlib version bump hasn't gone into opam yet. Once it does, the CI will start failing because SQIR doesn't work with the new Qlib, until the SQIR PR with the fixes is merged.

File: src/CoreData/Proportional.v [hunk 6]
```diff
@@ -13,85 +13,706 @@ Definition proportional_general {T_0 m_0 n_0 T_1 m_1 n_1}
...
+  zx0 ∝[c / d] zx1 <-> zx1 ∝[d / c] zx0.
+Proof.
+  rewrite proportional_by_sym_iff, Cinv_div.
+  reflexivity.
+Qed.
+
+
+
+
+Declare Custom Entry rwlist.
```
Comment (adrianleh) [inline src/CoreData/Proportional.v:394]: Genuine question: What's the benefit of this over notations?

File: src/CoreData/Proportional.v [hunk 7]
```diff
@@ -13,85 +13,706 @@ Definition proportional_general {T_0 m_0 n_0 T_1 m_1 n_1}
...
+  n constr at level 0, e custom rwlist at level 20, right associativity).
+
+Notation "'?' n e" := (boxrep_maybe n%nat e) (in custom rwlist at level 20, 
+  n constr at level 0, e custom rwlist at level 20, right associativity).
+
+
+
+
+
+Ltac tac_iter_simpl lst :=
```
Comment (adrianleh) [inline src/CoreData/Proportional.v:440]: Could you explain/comment what is happening in L440-L590?

File: src/CoreData/QlibTemp.v [hunk 8]
```diff
@@ -1,485 +1,55 @@
 From QuantumLib Require Import Matrix.
```
Comment (adrianleh) [inline src/CoreData/QlibTemp.v:1]: Thanks for moving this to QLib!

File: src/CoreRules/WireRules.v [hunk 9]
```diff
@@ -4,177 +4,94 @@ Require Import CastRules.
...
-Lemma X_0_is_wire : X 1 1 0 ∝ —.
+Lemma X_0_is_wire : X 1 1 0 ∝= —.
 Proof.
-  apply colorswap_diagrams.
+  apply colorswap_diagrams_eq.
   simpl.
   apply Z_0_is_wire.
 Qed.
 
-Lemma stack_nwire_distribute_r : forall {n m o p} (zx0 : ZX n m) (zx1 : ZX m o),
```
Comment (adrianleh) [inline src/CoreRules/WireRules.v:78]: I think we want to keep this diagrammatic

Comment (wjbs) [reply src/CoreRules/WireRules.v:78]: Good catch; I'll revert.

File: src/CoreData/Proportional.v (hunk 7 above)
Comment (wjbs) [reply src/CoreData/Proportional.v:440]: Much of this is an attempt to do a general rewrite tactic (allowing modifiers like multiple rewriting, direction changing, etc.) in Ltac1, when Ltac2 is really needed for a lot of that functionality. I'll remove what isn't used and comment what it.

File: src/CoreData/Proportional.v (hunk 6 above)
Comment (wjbs) [reply src/CoreData/Proportional.v:394]: It's quite similar to just notations, but restricted to a specific domain so that we don't pollute or compete with the rest of the term grammar. I was also attempting to get these things to not evaluate too much too soon, but that wasn't successful (in Ltac1). Moreover, I don't know how to (ergonomically) use an Ltac2-based solution without switching over to Ltac2 completely within a proof, which is not infeasible or necessarily too much work, but it has bad version compatibility and has lots of little incompatibilities. Finally, since the final `zxrewrite` tactic is only used in a handful of places, I didn't optimize for making it particularly powerful.

**Review by adrianleh — APPROVED** [review]
Everything resolved. Documentation will be added soon TM
